US04831166
A mixture of 58 g of methyl acetoacetate, 44 g of ethylene oxide, 3 g of NaCl and 70 ml of methanol was heated in an autoclave under autogenous pressure for 12 hours at 80° C. Thereafter, the methanol was distilled off, the residue was taken up with water, and the solution was washed with a little chloroform and distilled. 52.6 g of 2-(2-hydroxyethyl)-γ-butyrolactone were obtained, corresponding to a yield of 81% of theory.

reactant | methyl acetoacetate | 58 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ethylene oxide | 44 g | C1CO1 | C2H4O
reactant | NaCl | 3 g | [Na+].[Cl-]
reactant | methanol | 70 ml | CO | CH4O
product | 2-(2-hydroxyethyl)-γ-butyrolactone | 52.6 g, yield of 81% | OCCC1C(=O)OCC1 | C6H10O3
